US06825180B2
A mixture of 6-amino-1-methyluracil (141 mg, 1.0 mmol), (R)-1-chloro-5-methoxyhexane (150 mg, 1.0 mmol), dimethylsulfoxide (2 ml) and sodium hydride (30 mg, 1.2 mmol) was heated to 90° C. for 18 hours. After cooling to room temperature, the mixture was treated with water (7 ml) and extracted with ethyl acetate. The extract was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with ethyl acetate followed by 5% methanol-ethyl acetate to provide (R)-6-amino-3-(5-methoxyhexyl)uracil (152 mg, 60% yield) as an oil.

reactant | 6-amino-1-methyluracil | 1.0 mmol, 141 mg | NC1=CC(NC(N1C)=O)=O | C5H7N3O2
reactant | (R)-1-chloro-5-methoxyhexane | 1.0 mmol, 150 mg | ClCCCC[C@@H](C)OC | C7H15ClO
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | sodium hydride | 1.2 mmol, 30 mg | [H-].[Na+]
solvent | water | 7 ml | O | H2O
product | (R)-6-amino-3-(5-methoxyhexyl)uracil | 152 mg, 60% yield | NC1=CC(N(C(N1)=O)CCCC[C@@H](C)OC)=O | C11H19N3O3
